US09104110B2
In toluene solvent, 4-methacryloyloxy-4-methyladamantanecarboxylic acid was reacted with oxalyl chloride into a corresponding carboxylic acid chloride. To 1.8 g (6 mmol) of 4-methacryloyloxy-4-methyladamantanecarboxylic acid chloride thus obtained, 2.5 g (5 mmol) of triphenylsulfonium 2-hydroxy-1,1,3,3,3-pentafluoropropane-1-sulfonate (which was synthesized with reference to JP-A 2007-145803) and 20 g of methylene chloride were added, followed by ice cooling. To the solution, a solution of 0.7 g (7 mmol) of triethylamine and 0.06 g (0.5 mmol) of N,N-dimethylaminopyridine in 5 g of methylene chloride was added at such a rate that the temperature might not exceed 10° C., followed by stirring for 12 hours at room temperature. Thereafter, 10 g of 5% dilute hydrochloric acid solution was added to the reaction solution. The organic layer was taken out and washed with water, whereupon methylene chloride was distilled off in vacuum.

reactant | 4-methacryloyloxy-4-methyladamantanecarboxylic acid | C(C(=C)C)(=O)OC1(C2CC3(CC(CC1C3)C2)C(=O)O)C | C16H22O4
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-methacryloyloxy-4-methyladamantanecarboxylic acid chloride | 6 mmol, 1.8 g | C(C(=C)C)(=O)OC1(C2CC3(CC(CC1C3)C2)C(=O)Cl)C | C16H21ClO3
